US09120749B2
1-{4-[trans-4-Aminocyclohexylamino]-6-(3-chloro-4-hydroxyphenyl)quinolin-3-yl}-2-methylpropan-1-one
Following general procedure A-2, tert-butyl trans-4-[6-(3-chloro-4-hydroxyphenyl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate (39 mg, 0.072 mmol) was reacted with TFA (2 mL) to afford the desired product (15.4 mg, 41%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.05 (s, 1H), 8.40 (s, 1H), 8.13 (d, J=8.8 Hz, 1H), 7.95 (d, J=8.7 Hz, 1H), 7.72 (d, J=2.3 Hz, 1H), 7.54 (dd, J=8.4, 2.3 Hz, 1H), 7.08 (d, J=8.4 Hz, 1H), 4.31 (s, 1H), 3.80-3.72 (m, 1H), 3.29-3.26 (m, 1H), 2.44 (d, J=12.7 Hz, 2H), 2.22 (d, J=10.6 Hz, 2H), 1.84-1.74 (m, 2H), 1.67-1.56 (m, 2H), 1.25 (d, J=6.8 Hz, 6H); ESI MS m/z 438 [C25H28ClN3O2+H]+; HPLC 96.5% (AUC), tR=9.19 min.

reactant | tert-butyl trans-4-[6-(3-chloro-4-hydroxyphenyl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate | 0.072 mmol, 39 mg | ClC=1C=C(C=CC1O)C=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C30H36ClN3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-{4-[trans-4-Aminocyclohexylamino]-6-(3-chloro-4-hydroxyphenyl)quinolin-3-yl}-2-methylpropan-1-one | 15.4 mg, 41% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C=C1)O)Cl)C(C(C)C)=O | C25H28ClN3O2
